US04518597
6-[4-(3,5-Di-tert.butyl-4-hydroxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 3,5-di-tert.butyl-4-hydroxy-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 3,5-di-tert.butyl-4-hydroxy-thiophenol | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S | C14H22OS
product | 6-[4-(3,5-Di-tert.butyl-4-hydroxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C28H39NO4S
